US04570006
In 50 ml of anhydrous methanol, was dissolved 7.5 g of 4-cyano-2-methoxyphenol. The solution was saturated with dried gaseous hydrogen chloride, while being cooled in ice and stirred, and then stirred overnight at room temperature to precipitate yellow crystals. After addition of ethyl ether, the crystals were collected by filtration, washed with ethyl ether and dried to obtain 9.4 g of 4-methoxyiminomethyl-2-methoxyphenol hydrochloride.

reactant | 4-cyano-2-methoxyphenol | 7.5 g | C(#N)C1=CC(=C(C=C1)O)OC | C8H7NO2
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
product | 4-methoxyiminomethyl-2-methoxyphenol hydrochloride | 9.4 g | Cl.CON=CC1=CC(=C(C=C1)O)OC | InChI=1S/C9H11NO3.ClH/c1-12-9-5-7(6-10-13-2)3-4-8(9)11;/h3-6,11H,1-2H3;1H
